US06770642B2
Preparation of 2[1-(6-Chloroimidazo[2,1-b]thiazole-5-sulfonyl)-1H-indol-3-yl]-1-methylethylamine Hydrochloride
A solution of a-methyltryptamine methane sulfonate (5.0 g, 18.5 mmol) in a 1:1 mixture of acetone:water is treated with di-t-butyl dicarbonate (7.7 g, 55.5 mmol, 3 eq.), stirred at room temperature for 16 h, concentrated to an aqueous mixture and extracted with EtOAc. The extracts are combined, dried over MgSO4 and concentrated in vacuo. A mixture of a portion of the resultant residue (2.0 g, 7.3 mmol, 1.1 eq.) and 6-chloroimidazo[2,1-b]thiazole-5-sulfonyl chloride (1.7 g, 6.6 mmol, 1.0 eq.) in THF is treated portionwise with potassium t-butoxide (820 mg, 7.3 mmol, 1.1 equiv.) at room temperature stirred for 1 h, poured into saturated NaHCO3 and extracted with EtOAc. The extracts are combined, dried over Na2SO4 and concentrated in vacuo. This resultant residue is chromatographed (silica gel, 20%-50% EtOAc in hexanes as gradient eluent) to give the free base of the title product as a brown oil, 1.7 g (50% yield). Treatment with 4N HCl in dioxane and THF, followed by filtration and recrystallization of the filtercake from ethanol affords the title product as a light brown solid 1.0 g (40% yield), identified by NMR and mass spectral analyses.

reactant | a-methyltryptamine methane sulfonate | 18.5 mmol, 5.0 g | CS(=O)(=O)O.CC(N)CC1=CNC2=CC=CC=C12
reactant | di-t-butyl dicarbonate | 55.5 mmol, 7.7 g, 3 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 6-chloroimidazo[2,1-b]thiazole-5-sulfonyl chloride | 6.6 mmol, 1.7 g, 1.0 eq. | ClC=1N=C2SC=CN2C1S(=O)(=O)Cl | C5H2Cl2N2O2S2
reactant | potassium t-butoxide | 7.3 mmol, 820 mg, 1.1 equiv. | CC(C)([O-])C.[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 2[1-(6-Chloroimidazo[2,1-b]thiazole-5-sulfonyl)-1H-indol-3-yl]-1-methylethylamine Hydrochloride | 50% yield | Cl.ClC=1N=C2SC=CN2C1S(=O)(=O)N1C=C(C2=CC=CC=C12)CC(C)N | InChI=1S/C16H15ClN4O2S2.ClH/c1-10(18)8-11-9-21(13-5-3-2-4-12(11)13)25(22,23)15-14(17)19-16-20(15)6-7-24-16;/h2-7,9-10H,8,18H2,1H3;1H
